US04301169
Synthesis of 2-ethyl-1-[4-(N'-methylureido)phenyl]imidazole
0.8 g of methyl isocyanate was added to a solution of 1.5 g of 1-(4-aminophenyl)-2-ethylimidazole in 20 ml of dichloromethane, and the mixture was stirred at room temperature for 3 hours and then refluxed with stirring for 3 hours. After completion of the reaction, the reaction mixture was naturally cooled and the solvent was removed by distillation under reduced pressure. Benzene was added to the residue, and the formed solid was recovered by filtration. The recovered solid was dissolved in a small quantity of methanol and recrystallized from an ethyl ether/benzene mixed solvent. The obtained compound was converted to a hydrochloride having a melting point of 228° to 232° C. according to customary procedures. Elementary analysis values as C13H16N4O.HCl were as follows.

reactant | methyl isocyanate | 0.8 g | CN=C=O | C2H3NO
reactant | 1-(4-aminophenyl)-2-ethylimidazole | 1.5 g | NC1=CC=C(C=C1)N1C(=NC=C1)CC | C11H13N3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-ethyl-1-[4-(N'-methylureido)phenyl]imidazole | C(C)C=1N(C=CN1)C1=CC=C(C=C1)NC(=O)NC | C13H16N4O
